** sch_path: /home/ttuser/tt10-OTA_FC/xschem/PLsim.sch
**.subckt PLsim
V1 VDD GND 1.8
Vbias IN+ VSS 0.9
VbiasR IN- VSS 0.9
V2 VSS GND 0
x1 Vb VDD GND Vc2 OUT IN+ IN- Vc1 Vc OFCB
x2 Vb VDD GND Vc2 OUTPL IN+ IN- Vc1 Vc OFCB_parax
XR2 Vb VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR3 GND Vb GND sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR4 Vc VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR5 GND Vc GND sky130_fd_pr__res_xhigh_po_0p35 L=3.07 mult=1 m=1
XR6 Vc1 VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR7 GND Vc1 GND sky130_fd_pr__res_xhigh_po_0p35 L=13.2 mult=1 m=1
XR8 Vc2 VDD GND sky130_fd_pr__res_xhigh_po_0p35 L=5 mult=1 m=1
XR9 GND Vc2 GND sky130_fd_pr__res_xhigh_po_0p35 L=1.4 mult=1 m=1
**** begin user architecture code



* ngspice commands

.options savecurrents

.control
   set wr_vecnames

   op
   remzerovec
   write PLsim.raw
   set appendwrite
   dc Vbias 0.899 0.901 0.00001
   *dc Vbias 0.899 0.901 0.0001
   *dc Vbias 0 1.8 0.01
   *remzerovec
   plot v(out),v(outpl)
   plot deriv(v(out)),deriv(v(outpl))

   write PLsim.raw
   write PLsim.raw
   wrdata PostLayout_DC_OFCB.txt v(out),v(outpl),deriv(v(out)),deriv(v(outpl))
.endc
.end




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/ttuser/pdk/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  OFCB.sym # of pins=9
** sym_path: /home/ttuser/tt10-OTA_FC/xschem/OFCB.sym
** sch_path: /home/ttuser/tt10-OTA_FC/xschem/OFCB.sch
.subckt OFCB Vb VDD GND Vc2 OUT INp INm Vc1 Vc
*.iopin VDD
*.iopin GND
*.opin OUT
*.ipin INp
*.ipin INm
*.iopin Vc2
*.iopin Vc1
*.iopin Vc
*.iopin Vb
XM11 S Vb VDD VDD sky130_fd_pr__pfet_01v8_lvt L=1 W=60 nf=6 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM1 D1 INp S S sky130_fd_pr__pfet_01v8_lvt L=10 W=25 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM2 D2 INm S S sky130_fd_pr__pfet_01v8_lvt L=10 W=25 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM3 OUT Vc1 D2 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 D2 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=2.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 D1 Vc GND GND sky130_fd_pr__nfet_01v8_lvt L=1 W=2.8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 G Vc1 D1 GND sky130_fd_pr__nfet_01v8_lvt L=1 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 G Vc2 D9 D9 sky130_fd_pr__pfet_01v8_lvt L=2.23 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 D9 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2.23 W=3.85 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 D10 G VDD VDD sky130_fd_pr__pfet_01v8_lvt L=2.23 W=3.85 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 OUT Vc2 D10 D10 sky130_fd_pr__pfet_01v8_lvt L=2.23 W=4 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 OUT D1 sky130_fd_pr__cap_mim_m3_1 W=22.4 L=22.4 MF=2 m=2
.ends


* expanding   symbol:  OFCB_parax.sym # of pins=9
** sym_path: /home/ttuser/tt10-OTA_FC/xschem/OFCB.sym
.include /home/ttuser/tt10-OTA_FC/mag/OFCB.sim.spice
.end
